US08304557B2
N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-5-methylphenyl]-1,3-dimethyl-1H-pyrazole-5-carboxamide
In the same manner as in Example 9-2 and using N-{3-[(2-aminoimidazo[1,2-a]pyridin-6-yl)oxy]-5-methylphenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide (300 mg, 0.797 mmol), cyclopropanecarbonyl chloride (72.0 μL, 0.797 mmol) and N,N-dimethylacetamide (10 mL) as starting materials, the title compound (111 mg, 31%) was obtained as a pale-yellow solid.

reactant | N-{3-[(2-aminoimidazo[1,2-a]pyridin-6-yl)oxy]-5-methylphenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide | 0.797 mmol, 300 mg | NC=1N=C2N(C=C(C=C2)OC=2C=C(C=C(C2)C)NC(=O)C2=CC(=NN2C)C)C1 | C20H20N6O2
reactant | cyclopropanecarbonyl chloride | 0.797 mmol, 72.0 μL | C1(CC1)C(=O)Cl | C4H5ClO
solvent | N,N-dimethylacetamide | 10 mL | CN(C(C)=O)C | C4H9NO
product | N-[3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-a]pyridin-6-yl}oxy)-5-methylphenyl]-1,3-dimethyl-1H-pyrazole-5-carboxamide | 111 mg, 31% | C1(CC1)C(=O)NC=1N=C2N(C=C(C=C2)OC=2C=C(C=C(C2)C)NC(=O)C2=CC(=NN2C)C)C1 | C24H24N6O3
